US07122543B2
Methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-(trifluoromethanesulfonyl)oxybenzoate
To a solution of methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-hydroxybenzoate (3.10 g, 8.2446 mmol) in anhydrous methylene chloride (200 ml) were added 4-dimethylaminopyridine (1.51 g, 12.377 mmol), triethylamine (1.67 g, 16.5346 mmol) and trifluoromethanesulfonic acid anhydride (3.49 g, 12.3758 mmol) and the mixture was stirred for 3 hours under cooling with ice. The reaction solution was washed with water and dried and the solvent was evaporated therefrom. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=6:1) to give the title compound (4.06 g, 7.9921 mmol, 97%).

reactant | methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-hydroxybenzoate | 8.2446 mmol, 3.10 g | COC=1C(=C(CC=2C=CC(=C(C(=O)OC)C2)O)C(=C(C1OC)OC)OC)C | C20H24O7
reactant | triethylamine | 16.5346 mmol, 1.67 g | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic acid anhydride | 12.3758 mmol, 3.49 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 12.377 mmol, 1.51 g | CN(C1=CC=NC=C1)C | C7H10N2
product | Methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-(trifluoromethanesulfonyl)oxybenzoate | 7.9921 mmol, 4.06 g, 97% | COC=1C(=C(CC=2C=CC(=C(C(=O)OC)C2)OS(=O)(=O)C(F)(F)F)C(=C(C1OC)OC)OC)C | C21H23F3O9S
